US04450164
In similar manner, reaction of 2-amino-3-(2-phenylethyl)pyridine (which is prepared by amination of 3-(2-phenyl ethyl)-pyridine with sodium amide in ammonia and N,N-dimethylaniline) with 3-chloro-4-oxo-pentanonitrile in ethanol in the presence of triethylamine gives 3-cyano-methyl-2-methyl-8-(2-phenylethyl)imidazo[1,2-a]pyridine.

reactant | 2-amino-3-(2-phenylethyl)pyridine | NC1=NC=CC=C1CCC1=CC=CC=C1 | C13H14N2
reactant | 3-chloro-4-oxo-pentanonitrile | ClC(CC#N)C(C)=O | C5H6ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 3-cyano-methyl-2-methyl-8-(2-phenylethyl)imidazo[1,2-a]pyridine | C(#N)C1=C(N=C2N1C(=CC=C2CCC2=CC=CC=C2)C)C | C18H17N3
